US05128355
To a solution of 5.95 g of p-cresol and 7.83 g of 2-chlorobenzoic in 50 mL of dimethylformamide at 25° was added, in portions, 14.50 g of anhydrous potassium carbonate. The resulting mixture was heated to 80°, and 0.10 g of copper(I) iodide was added. The reaction mixture then was refluxed for 16 hours. While still hot the mixture was poured onto water-ice. The resulting suspension was filtered, and the filtrate was adjusted to pH 3.0 using aqueous hydrochloric acid. The precipitate was recovered by filtration. The crude solid was dissolved in an aqueous sodium hydroxide solution. This solution was acidified to pH 6.0 using hydrochloric acid, filtered, and then acidified to pH 3.0. Filtration provided 5.67 g of 2-(4-methylphenoxyl)benzoic acid which was employed in the following reaction without further purification. NMR (200 MHz, CDCl3): δ 8.15 (d of d, 1H); 7.42 (d of d of d, 1H); 7.23-7.12 (m, 3H); 6.97 (d, 2H); 6.80 (d, 1H); 2.37 (s, 3H).

reactant | p-cresol | 5.95 g | C1=CC(=CC=C1O)C | C7H8O
reactant | potassium carbonate | 14.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.10 g | [Cu]I
product | 2-(4-methylphenoxyl)benzoic acid | 5.67 g | CC1=CC=C(OC2=C(C(=O)O)C=CC=C2)C=C1 | C14H12O3
